US07462620B2
Ethyl 2-(2-(2-(2,3-Difluorophenyl)ethyl)-4-oxo-4H-thieno[3,2-d]pyrimidin-1-yl)acetate
Ethyl 2-((2-carbamoylthiophen-3-yl)-(3-(2,3-difluorophenyl)propanoyl)amino)acetate (Int. B56) (500 mg) in dry DMF (3 ml) was cooled in an ice bath and treated portion wise with sodium hydride (50 mg, 60% dispersion in oil). The reaction mixture was stirred at room temperature for 30 min to give an orange homogeneous solution. Excess 1 M hydrogen chloride in ether was added giving a pale yellow solution and a precipitate. The mixture was heated in an oil bath at 120° C. for 30 min. The solution was concentrated and re-dissolved in ethyl acetate. The solution was washed with saturated sodium bicarbonate, brine, dried and concentrated in vacuo to give a solid. Trituration with ether afforded the title compound as a white solid (375 mgs, 78%); 1H-NMR (CDCl3) δ 1.29 (3H, t), 3.01 (2H, t), 3.30 (2H, t), 4.29 (2H, q), 4.84 (2H, s), 6.96 (1H, d), 7.03, (3H, m) and 7.77 (1H, d). (APCI+) Found (M+1)=379, C18H16F2N2O3S requires 378.

reactant | Ethyl 2-((2-carbamoylthiophen-3-yl)-(3-(2,3-difluorophenyl)propanoyl)amino)acetate | 500 mg | C(N)(=O)C=1SC=CC1N(CC(=O)OCC)C(CCC1=C(C(=CC=C1)F)F)=O | C18H18F2N2O4S
reactant | sodium hydride | 50 mg | [H-].[Na+]
reactant | hydrogen chloride | 1 M | Cl | ClH
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
product | Ethyl 2-(2-(2-(2,3-Difluorophenyl)ethyl)-4-oxo-4H-thieno[3,2-d]pyrimidin-1-yl)acetate | 375 mgs, 78% | FC1=C(C=CC=C1F)CCC1=NC(C2=C(N1CC(=O)OCC)C=CS2)=O | C18H16F2N2O3S
